US07462639B2
Piperidine-1-carboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Piperidine-1-carboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.43 mmol) and piperidine-1-carbonyl chloride (63 mg, 0.43 mmol). 30 mg (15%) of the title compound were obtained.

reactant | 2-(4-amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.43 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(CC)CC)N1 | C19H24N6O
reactant | piperidine-1-carbonyl chloride | 0.43 mmol, 63 mg | N1(CCCCC1)C(=O)Cl | C6H10ClNO
product | Piperidine-1-carboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | 30 mg, 15% | C(C)C1(C(N(C=2C=C3C(=CC12)NC(=N3)C3=NNC=C3NC(=O)N3CCCCC3)C(C)C)=O)CC | C25H33N7O2
